US04118567
A solution of 7.6 g. (0.05 mole) of 2-(2-pyridyl)thioacetamide in a 40% aqueous solution of cyclopropylamine is refluxed for 45 minutes. After cooling, approximately 30 ml. of water is added. The reaction mixture is extracted three times with chloroform. The extracts are combined and dried over magnesium sulfate. The solvent is removed under reduced pressure. The residue is recrystallized twice from ethyl acetate/hexane to give N-cyclopropyl-2-(2-pyridyl)thioacetamide.

reactant | 2-(2-pyridyl)thioacetamide | 0.05 mole | N1=C(C=CC=C1)CC(=S)N | C7H8N2S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | water | O | H2O
product | N-cyclopropyl-2-(2-pyridyl)thioacetamide | C1(CC1)NC(CC1=NC=CC=C1)=S | C10H12N2S
